US04959096
Preparation of the precursor to Example 1.3 α-(4-chlorophenyl)-benzyl alcohol
15.2 g (0.07 mole) of phenyl-(4-chlorophenyl)-ketone are dissolved in 30 ml of tetrahydrofuran and 10 ml of methanol. 1.32 g (0.035 mole) of sodium borohydride are gradually added, with stirring, and the exothermic reaction is maintained between 25° and 30° C. by cooling. After one hour ketone can no longer be detected by thin layer chromatography. The mixture is then extracted with water and chloroform, the chloroform is dried with sodium sulfate and removed in a rotary evaporator. The crude yield is 16.2 g (oil). Of this 15.5 g are distilled at 220° C. and 30 mbar in a bulb tube oven. 14.3 g of an oil are obtained which is more than 95% pure according to gas chromatography and solidifies into crystals on cooling. 13.3 g are recrystallised from a mixture of 25 ml of n-hexane and 5 ml of cyclohexane. The yield is 12.2 g; m.p. 58°-60° C.

reactant | phenyl-(4-chlorophenyl)-ketone | 0.07 mole, 15.2 g | C1(=CC=CC=C1)C(=O)C1=CC=C(C=C1)Cl | C13H9ClO
reactant | sodium borohydride | 0.035 mole, 1.32 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | α-(4-chlorophenyl)-benzyl alcohol | 14.3 g | ClC1=CC=C(C=C1)C(C1=CC=CC=C1)O | C13H11ClO
